US04076821
A mixture of 11 g of 4,4-bis(p-fluorophenyl)cyclohexyl tosylate, 6 g of 1-(4-piperidyl)-5-chloro-2-benzimidazolinone, 3.5 g of potassium carbonate, 4.1 g of potassium iodide and 80 ml of dimethylformamide is stirred at 70°-80° C for 64 hours. The reaction mixture is poured into water, ether is added to the separated semi-solid, and the whole is stirred for 30 minutes. The substance insoluble in water and ether is collected by filtration, washed with ether and dried. The obtained crystals are dissolved in a mixture of chloroform and methanol (9:1), and the solution is concentrated to some degree and cooled. The precipitated crystals are collected by filtration and purified in the same manner to give 1-[1-(4,4-bis(p-fluorophenyl)cyclohexyl)-4-piperidyl]-5-chloro-2-benzimidazolinone as white crystals, melting at 279°-284° C.

reactant | 4,4-bis(p-fluorophenyl)cyclohexyl tosylate | 11 g | S(=O)(=O)(OC1CCC(CC1)(C1=CC=C(C=C1)F)C1=CC=C(C=C1)F)C1=CC=C(C)C=C1 | C25H24F2O3S
reactant | 1-(4-piperidyl)-5-chloro-2-benzimidazolinone | 6 g | N1CCC(CC1)N1C(NC2=C1C=CC(=C2)Cl)=O | C12H14ClN3O
reactant | potassium carbonate | 3.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 4.1 g | [I-].[K+]
solvent | ether | CCOCC | C4H10O
solvent | water | O | H2O
solvent | dimethylformamide | 80 ml | CN(C=O)C | C3H7NO
product | 1-[1-(4,4-bis(p-fluorophenyl)cyclohexyl)-4-piperidyl]-5-chloro-2-benzimidazolinone | FC1=CC=C(C=C1)C1(CCC(CC1)N1CCC(CC1)N1C(NC2=C1C=CC(=C2)Cl)=O)C2=CC=C(C=C2)F | C30H30ClF2N3O
